US04451462
A cold solution of chlorine in chloroform is added dropwise at from 0° to 5° C., while stirring, to a mixture of 14.7 g (0.063 mole) of 3-methyl-6-morpholinobenzofuran-2(3H)-one in 100 ml of chloroform until no more educt is visible in the thin layer chromatograph. The reaction mixture is diluted with methylene chloride and washed in succession with 10% strength sodium thiosulphate solution, dilute sodium bicarbonate solution and water. The crude product remaining after drying and concentrating by evaporation the organic phase is chromatographed over silica gel with petroleum ether/ether. Recrystallisation of the pure fractions from ether/petroleum ether yields 5-chloro-3-methyl-6-morpholinobenzofuran-2(3H)-one having a melting point of 103°-105° C.

reactant | chlorine | ClCl | Cl2
reactant | 3-methyl-6-morpholinobenzofuran-2(3H)-one | 0.063 mole, 14.7 g | CC1C(OC2=C1C=CC(=C2)N2CCOCC2)=O | C13H15NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-chloro-3-methyl-6-morpholinobenzofuran-2(3H)-one | ClC=1C(=CC2=C(C(C(O2)=O)C)C1)N1CCOCC1 | C13H14ClNO3
